US05998416
Step 1: 1-(5-Bromo-2-hydroxyphenyl)-2-chloroethanone
To a solution of 4-bromoanisole (17.4 ml, 138 mmol) in dichloromethane (150 ml) was added chloroacetyl chloride (32 ml, 400 mmol) followed by aluminium chloride (60 g, 450 mmol) keeping the temperature below 30° C. The yellow solution was heated to reflux for 8 hours, cooled down to ambient temperature, then ice water was added very carefully. The organic layer was separated and the aqueous extracted once with dichloromethane. The combined organics were dried (sodium sulphate) then evaporated to give an oil which was purified by crystallisation from hexane. The title compound was obtained as a yellow solid (18 g, 52%), mp 80-82° C. 1H NMR (250MHz, CDCl3) δ4.69 (2H, s), 6.95 (1H, d, J=9 Hz), 7.60 (1H, dd, J=1 and 9 Hz), 7.80 (1H, d, J=2 Hz), 11.60 (1H, s).

reactant | 4-bromoanisole | 138 mmol, 17.4 ml | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | chloroacetyl chloride | 400 mmol, 32 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium chloride | 450 mmol, 60 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-(5-Bromo-2-hydroxyphenyl)-2-chloroethanone | BrC=1C=CC(=C(C1)C(CCl)=O)O | C8H6BrClO2
